US04405789
The operation is as in Example 1, but starting from 10.2 g of 4-[(5-methoxy-3-indolyl)-methyl]-piperidine and 0.21 g of triethylbenzylammonium chloride in 100 ml of chloroform, and 12.5 g of sodium hydroxide in solution in 25 ml of water. 3.7 g of 3-chloro-6-methoxy-4-[(4-piperidyl)-methyl]-quinoline are finally obtained, the monohydrochloride of which melts above 260° C.

reactant | 4-[(5-methoxy-3-indolyl)-methyl]-piperidine | 10.2 g | COC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C15H20N2O
reactant | sodium hydroxide | 12.5 g | [OH-].[Na+]
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 0.21 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 25 ml | O | H2O
product | 3-chloro-6-methoxy-4-[(4-piperidyl)-methyl]-quinoline | 3.7 g | ClC=1C=NC2=CC=C(C=C2C1CC1CCNCC1)OC | C16H19ClN2O
